US07427635B2
A solution of 2-((2S,3S)-2-amino-3-phenyl-butyrylamino)-thiazole-4-carboxylic acid methyl ester (75 mg, 0.24 mmol) and tert-butoxycarbonylamino-(4-methylsulfanyl-phenyl)-acetic acid (77 mg, 0.26 mmol) in dichloromethane (10 mL) at 0° C. was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (50 mg, 0.26 mmol). The reaction was allowed to slowly warm to room temperature and stirred for 60 hours. The mixture was then partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatography over silica gel gradient eluted up to 7:3 ethyl acetate/hexane. The material obtained after chromatography was further treated by precipitation of dichloromethane solution with excess of hexanes to give 2-{(2S,3S)-2-[2-tert-butoxycarbonylamino-2-(4-methylsulfanyl-phenyl)-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester as a white amorphous solid (115 mg, 80%).

reactant | 2-((2S,3S)-2-amino-3-phenyl-butyrylamino)-thiazole-4-carboxylic acid methyl ester | 0.24 mmol, 75 mg | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)N)=O | C15H17N3O3S
reactant | tert-butoxycarbonylamino-(4-methylsulfanyl-phenyl)-acetic acid | 0.26 mmol, 77 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=C(C=C1)SC | C14H19NO4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.26 mmol, 50 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-{(2S,3S)-2-[2-tert-butoxycarbonylamino-2-(4-methylsulfanyl-phenyl)-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester | 115 mg, 80% | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC(C(C1=CC=C(C=C1)SC)NC(=O)OC(C)(C)C)=O)=O | C29H34N4O6S2
